US06855710B2
(Z)-3-[1-(4-ethoxycarbonylmethyl-phenylamino)-1-phenyl-me-thylidene]-2-indolinone
Prepared analogously to Example 1 from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone and ethyl 4-aminophenylacetate in DMF and subsequent treatment with piperidine.

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | ethyl 4-aminophenylacetate | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | (Z)-3-[1-(4-ethoxycarbonylmethyl-phenylamino)-1-phenyl-me-thylidene]-2-indolinone | C(C)OC(=O)CC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C25H22N2O3
